US06235731B1
2) Synthesis of N-[4-(4-benzoylpiperazin-1-yl)butan-1-yl]-5-thia-1,8b-diazaacenaphthylene-4-carboxamide dihydrochloride
To a solution of 1.16 g (2.51 mmol.) of N-[4-(4-benzoylpiperazin-1-yl)butan-1-yl]-5-thia-1,8b-diazaacenaphthylene-4-carboxamide in ethanol was added, at room temperature, 1 ml (12 mmol.) of 12N hydrochloric acid. The mixture was stirred for several minutes. The resulting crystals were collected by filtration and washed with ethanol and diethyl ether to give the object compound as orange crystals. The yield was 0.918 g (69%).

reactant | N-[4-(4-benzoylpiperazin-1-yl)butan-1-yl]-5-thia-1,8b-diazaacenaphthylene-4-carboxamide | 2.51 mmol, 1.16 g | C(C1=CC=CC=C1)(=O)N1CCN(CC1)CCCCNC(=O)C1=CC2=CN=C3C=CC=C(S1)N32 | C25H27N5O2S
reactant | hydrochloric acid | 12 mmol, 12N, 1 ml | Cl | ClH
solvent | ethanol | C(C)O | C2H6O
product | N-[4-(4-benzoylpiperazin-1-yl)butan-1-yl]-5-thia-1,8b-diazaacenaphthylene-4-carboxamide dihydrochloride | Cl.Cl.C(C1=CC=CC=C1)(=O)N1CCN(CC1)CCCCNC(=O)C1=CC2=CN=C3C=CC=C(S1)N32 | InChI=1S/C25H27N5O2S.2ClH/c31-24(21-17-20-18-27-22-9-6-10-23(33-21)30(20)22)26-11-4-5-12-28-13-15-29(16-14-28)25(32)19-7-2-1-3-8-19;;/h1-3,6-10,17-18H,4-5,11-16H2,(H,26,31);2*1H
